US05624950
To a solution of 7.5 g of 6-acetoxy-2-cyclohexenone and 16.83 cm3 of N-butoxymethyl-N-trimethylsilylmethylbenzylamine in 150 cm3 of dichloromethane are added, at a temperature of 10° C., 12 drops of trifluoroacetic acid. The reaction mixture is stirred at room temperature for 7 hours, then 2 g of potassium carbonate are added and the solution is filtered through a sinter funnel and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (particle size 0.04-0.06 mm, diameter 6 cm, height 35 cm), eluting under a pressure of 0.5 bar of nitrogen with a mixture of dichloromethane and methanol (97.5-2.5 by volume) and collecting 60 cm3 fractions. Fractions 25 to 39 are combined and concentrated to dryness under reduced pressure (2.7 kPa). 6.25 g of (3aRS,5RS,7aSR)-5-acetoxy-2-benzyl-4-perhydroisoindolone are obtained in the form of a yellow oil.

reactant | 6-acetoxy-2-cyclohexenone | 7.5 g | C(C)(=O)OC1CCC=CC1=O | C8H10O3
reactant | N-butoxymethyl-N-trimethylsilylmethylbenzylamine | 16.83 cm3 | C(CCC)OCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C16H29NOSi
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 150 cm3 | ClCCl | CH2Cl2
catalyst | trifluoroacetic acid | 12 drops | FC(C(=O)O)(F)F | C2HF3O2
product | (3aRS,5RS,7aSR)-5-acetoxy-2-benzyl-4-perhydroisoindolone | 6.25 g | C(C)(=O)OC1C(C2CN(CC2CC1)CC1=CC=CC=C1)=O | C17H21NO3
